US05112846
Using the method in Example 4, N-hydroxy-9H-fluorene-2-methanamine is reacted with isobutyryl chloride to give N-(9H-fluoren-2-ylmethyl)-N-hydroxy-2-methyl-propanamide as white crystalline solid. Yield 3.5 g (62%); mp 163°-166° C.

reactant | N-hydroxy-9H-fluorene-2-methanamine | ONCC1=CC=2CC3=CC=CC=C3C2C=C1 | C14H13NO
reactant | isobutyryl chloride | C(C(C)C)(=O)Cl | C4H7ClO
product | N-(9H-fluoren-2-ylmethyl)-N-hydroxy-2-methyl-propanamide | C1=C(C=CC=2C3=CC=CC=C3CC12)CN(C(C(C)C)=O)O | C18H19NO2
